US05153203
To a mixture of 220 mg of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 280 mg of 1-t-butoxycarbonyl-3-hydroxypyrrolidine, 170 mg of DBU and 5 ml of DMF was added 65 mg of 55% sodium hydride while the former was stirred at room temperature. The resultant mixture was stirred for 2 hours at room temperature and then at 45° C. for 11 hours. The reaction mixture was concentrated to dryness under reduced pressure. Chloroform was added to the residue to dissolve the latter. The resultant solution was washed successively with a 10% aqueous solution of citric acid, a 5% aqueous solution of sodium hydrogencarbonate and saturated saline. The resulting chloroform layer was dried over anhydrous sodium sulfate and then concentrated. The residue was purified by chromatography on silica gel (chloroform/methanol: 100/1), whereby 140 mg of ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro1,4-dihydro-4-oxoquinoline-3-carboxylate was obtained.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 220 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
reactant | 1-t-butoxycarbonyl-3-hydroxypyrrolidine | 280 mg | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | DBU | 170 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydride | 65 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro1,4-dihydro-4-oxoquinoline-3-carboxylate | 140 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C24H29FN2O6
